US09085555B2
D. (2R,5S)-2-Aminomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester
A mixture of (2R,5S)-2-azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (460 mg, 0.99 mmol) and triphenylphosphine (312 mg, 1.19 mmol) in THF (4 mL) was stirred at RT overnight. After completion of the reaction, THF was removed and the crude reaction mixture was purified by preparative HPLC (Waters SunFire C18-ODB 5 μm, 19×50, 5-100% CH3CN/H2O in 17 min, 100% CH3CN for 3 min, CH3CN and H2O containing 0.1% TFA, flow: 20 mL/min) to give the title compound. MS: 438 [M+H]+; tR (HPLC conditions b): 3.8 min.

reactant | (2R,5S)-2-azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 0.99 mmol, 460 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CN=[N+]=[N-] | C21H20F3N5O4
reactant | triphenylphosphine | 1.19 mmol, 312 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (2R,5S)-2-Aminomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CN | C21H22F3N3O4
